US07705042B2
b) 1-[4-(4-Methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-2-morpholin-4-yl-ethanone
A solution of 2-chloro-1-[4-(4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-ethanone (as prepared in the previous step, 0.18 g, 0.48 mmol) in CH2Cl2 (10 mL) was treated with Et3N (0.10 mL, 0.72 mmol) and morpholine (46 μL, 0.53 mmol). The reaction was stirred at room temperature for 18.5 h. The reaction was diluted with CH2Cl2 and washed with water. The aqueous layer was extracted further with CH2Cl2. The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound (0.16 g, 76%) as a yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 8.21 (d, 1H, J=9.2 Hz), 6.03 (d, 1H, J=9.2 Hz), 3.85-3.63 (m, 12H), 3.32-3.22 (m, 2H), 3.05-2.93 (m, 2H), 2.66-2.50 (m, 2H), 1.75-1.66 (m, 2H), 1.66-1.60 (m, 2H, partially obscured by water peak), 1.44-1.38 (m, 1H), 1.37-1.16 (m, 4H), 0.98 (d, 3H, J=6.4 Hz). LC-MS (ESI, m/z): Calcd. for C21H32N6O4, 433.2 (M+H), found 432.9.

reactant | 2-chloro-1-[4-(4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C(=N1)N1CCC(CC1)C)[N+](=O)[O-] | C17H24ClN5O3
reactant | Et3N | 0.72 mmol, 0.10 mL | CCN(CC)CC | C6H15N
reactant | morpholine | 0.53 mmol, 46 μL | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-Methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-2-morpholin-4-yl-ethanone | 0.16 g, 76% | CC1CCN(CC1)C1=NC(=CC=C1[N+](=O)[O-])N1CCN(CC1)C(CN1CCOCC1)=O | C21H32N6O4
